### PR TITLE
[Merged by Bors] - feat: lemmas about order on ENat

### PR DESCRIPTION
**Pull request by scholzhannah**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ENat/Basic.lean [hunk 1]
```diff
@@ -281,4 +281,21 @@ lemma one_le_iff_ne_zero_withTop {n : WithTop ℕ∞} :
...
+  exact le_add_self
+
+lemma add_lt_add_iff_right_of_finite {k : ℕ∞} (ne : k ≠ ⊤) : n + k < m + k ↔ n < m := by
+  cases' k with k
+  · contradiction
+  cases' n with n
+  · simp
+  cases' m with m
+  · norm_cast; simp [coe_lt_top, -Nat.cast_add]
+  · norm_cast; simp_all
```
Comment (Rida-Hamadani) [inline Mathlib/Data/ENat/Basic.lean:295]:
```suggestion
lemma add_lt_add_iff_right {k : ℕ∞} (h : k ≠ ⊤) : n + k < m + k ↔ n < m :=
  WithTop.add_lt_add_iff_right h
```
I suggested changing the name to `add_lt_add_iff_right` for consistency.

File: Mathlib/Data/ENat/Basic.lean [hunk 2]
```diff
@@ -281,4 +281,21 @@ lemma one_le_iff_ne_zero_withTop {n : WithTop ℕ∞} :
...
+
+lemma add_lt_add_iff_left_of_finite {k : ℕ∞} (ne : k ≠ ⊤) : k + n < k + m ↔ n < m := by
+  repeat rw [add_comm k]
+  exact add_lt_add_iff_right_of_finite ne
```
Comment (Rida-Hamadani) [inline Mathlib/Data/ENat/Basic.lean:299]:
```suggestion
lemma add_lt_add_iff_left {k : ℕ∞} (h : k ≠ ⊤) : k + n < k + m ↔ n < m :=
  WithTop.add_lt_add_iff_left h
```

File: Mathlib/Data/ENat/Basic.lean [hunk 3]
```diff
@@ -281,4 +281,21 @@ lemma one_le_iff_ne_zero_withTop {n : WithTop ℕ∞} :
   ⟨fun h ↦ (zero_lt_one.trans_le h).ne',
     fun h ↦ add_one_nat_le_withTop_of_lt (pos_iff_ne_zero.mpr h)⟩
 
+lemma add_one_pos : 0 < n + 1 := by
+  rw [← Order.one_le_iff_pos]
+  exact le_add_self
```
Comment (Rida-Hamadani) [inline Mathlib/Data/ENat/Basic.lean:286]:
```suggestion
lemma add_one_pos : 0 < n + 1 :=
  succ_def n ▸ Order.bot_lt_succ n
```
This change optional, I just think it is more clear to use `Order.bot_lt_succ` because it is basically the same lemma.

**Review by Rida-Hamadani — CHANGES_REQUESTED** [review]
Thanks, few comments:

**Review by Rida-Hamadani — APPROVED** [review]

**Comment by fpvandoorn** [comment]
Thanks!

bors merge
